US09233958B2
4-(3-{1-[4-(Cyclopropylcarbonyl)phenoxy]ethyl}-1,2,4-oxadiazol-5-yl)-2-fluorobenzoic acid
1-Hydroxybenzotriazole monohydrate (574 mg, 3.75 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (1.44 g, 7.49 mmol) were added to an N,N-dimethylformamide (20 mL) solution of the compound obtained in Reference Example 80 (900 mg, 3.75 mmol) at room temperature, and the mixture was stirred at the same temperature for 30 minutes. The compound obtained in Reference Example 83 (930 mg, 3.75 mmol) was added to the mixture at room temperature, and the resulting mixture was stirred at room temperature for 20 minutes, and then heated at 90° C. for 6 hours. After the reaction mixture was cooled to room temperature, water and a saturated aqueous solution of sodium hydrogen carbonate were added to the reaction mixture. The resulting mixture was extracted three times with ethyl acetate. The organic layer thus obtained was washed with a 10% aqueous solution of sodium chloride, and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1-41:1, v/v) to give a mixture containing tert-butyl 4-(3-{1-[4-(cyclopropylcarbonyl)phenoxy]ethyl}-1,2,4-oxadiazol-5-yl)-2-fluorobenzoate. Subsequently, a methylene chloride (2 mL) solution of trifluoroacetic acid (2 mL) was added to a methylene chloride (4 mL) solution of the mixture thus obtained at room temperature, and the resulting mixture was stirred at the same temperature for 30 minutes. Trifluoroacetic acid (2 mL) was added to the mixture at room temperature, and the resulting mixture was stirred at the same temperature for 20 minutes. The solvent was distilled off under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1→1:4, v/v) to give the title compound (655 mg, yield: 44%).

reactant | 1-Hydroxybenzotriazole monohydrate | 3.75 mmol, 574 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 7.49 mmol, 1.44 g | Cl.CN(CCCN=C=NCC)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | tert-butyl 4-(3-{1-[4-(cyclopropylcarbonyl)phenoxy]ethyl}-1,2,4-oxadiazol-5-yl)-2-fluorobenzoate | C1(CC1)C(=O)C1=CC=C(OC(C)C2=NOC(=N2)C2=CC(=C(C(=O)OC(C)(C)C)C=C2)F)C=C1 | C25H25FN2O5
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | Trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 4-(3-{1-[4-(Cyclopropylcarbonyl)phenoxy]ethyl}-1,2,4-oxadiazol-5-yl)-2-fluorobenzoic acid | 655 mg, yield: 44% | C1(CC1)C(=O)C1=CC=C(OC(C)C2=NOC(=N2)C2=CC(=C(C(=O)O)C=C2)F)C=C1 | C21H17FN2O5
